US07067667B2
1,2,3,3a, 5,9b-Hexahydrocyclopenta[c]quinolin-4-one-7-carbaldehyde
A solution of 187 mg (0.86 mmol) of 7-hydroxymethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 20 ml of chloroform-dichloromethane-acetonitrile (2:1:1) is mixed with 151 mg (1.29 mmol) of N-methylmorpholin-N-oxide and 1.5 g of molecular sieve 4 Å. After 15 mg (0.043 mmol) of tetrapropylammonium perruthenate (TPAP) is added, the batch is stirred for 2.5 hours at room temperature, before another 10 mg (0.028 mmol) of TPAP is added. After 1.5 hours, silica gel is added to the reaction mixture, and the solvent is distilled off in a vacuum. Column chromatography with hexane-ethyl acetate yields 156 mg of product.

reactant | 7-hydroxymethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.86 mmol, 187 mg | OCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C13H15NO2
reactant | N-methylmorpholin-N-oxide | 1.29 mmol, 151 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | chloroform dichloromethane acetonitrile | 20 ml | C(Cl)(Cl)Cl.ClCCl.C(C)#N
catalyst | tetrapropylammonium perruthenate | 0.043 mmol, 15 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
catalyst | TPAP | 0.028 mmol, 10 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1,2,3,3a, 5,9b-Hexahydrocyclopenta[c]quinolin-4-one-7-carbaldehyde | 156 mg | C1CCC2C(NC=3C=C(C=CC3C21)C=O)=O | C13H13NO2
